US05210092
To a stirred suspension of 2-formylamino-2-(4-methylphenyl)acetic acid (4.00 g) in acetic anhydride (45 ml) was added 2-chloroacrylonitrile (16.5 ml) at room temperature and the resulting suspension was heated at 90° C. for 2.5 hours. After cooling, the solvent was evaporated and the residue was washed with isopropyl ether. The mixture was filtered and the resulting solid was dissolved into ethyl acetate and the solution was washed with aqueous saturated sodium bicarbonate and water successively. The organic layer was dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with n-hexane/methylene chloride 1:3 (V/V) to give 2-(4-methylphenyl)pyrrole-3-carbonitrile (0.73 g) as a colorless viscous oil.

reactant | 2-formylamino-2-(4-methylphenyl)acetic acid | 4.00 g | C(=O)NC(C(=O)O)C1=CC=C(C=C1)C | C10H11NO3
reactant | 2-chloroacrylonitrile | 16.5 ml | ClC(C#N)=C | C3H2ClN
reactant | acetic anhydride | 45 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(4-methylphenyl)pyrrole-3-carbonitrile | 0.73 g | CC1=CC=C(C=C1)C=1NC=CC1C#N | C12H10N2
